US08975415B2
A suspension of 6′-(2-methylimidazo[1,2-a]pyridin-6-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine (66 mg, 0.16 mmol), acetic acid (27 μl, 0.06 mmol) and PtO2 (13 mg) in EtOH (3.3 ml) was stirred at room temperature under the hydrogen atmosphere at 3 atm for 8 hours. To the mixture was added acetic acid (63 μl), and the mixture was stirred at room temperature under hydrogen atmosphere at 3 atm for 38 hours. The mixture was filtrated through celite pad. And then the filtrate was concentrated under reduced pressure. The obtained residue was purified by silicagel column chromatography (28% NH4OH/EtOH/CHCl3=2:20:80) followed by trituration in iPr2O and filtration to give 6′-(2-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-6-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine (56 mg).

reactant | 6′-(2-methylimidazo[1,2-a]pyridin-6-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine | 0.16 mmol, 66 mg | CC=1N=C2N(C=C(C=C2)C=2C=C3C(=CC2)OC2(CCC2)C2(COC2)C32N=C(OC2)N)C1 | C24H24N4O3
reactant | acetic acid | 0.06 mmol, 27 μl | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 63 μl | C(C)(=O)O | C2H4O2
solvent | EtOH | 3.3 ml | CCO | C2H6O
catalyst | PtO2 | 13 mg | O=[Pt]=O
product | 6′-(2-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-6-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine | 56 mg | CC=1N=C2N(CC(CC2)C=2C=C3C(=CC2)OC2(CCC2)C2(COC2)C32N=C(OC2)N)C1 | C24H28N4O3
